US08957068B2
To a solution of tert-butyl 4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl((S)-1-(4-(1-methyl-1H-pyrazol-4-yl)phenyl)ethyl)carbamate (45 mg, 0.09 mmol) in DCM (1 mL) was added TFA (1 mL, 12 mmol) slowly at −78° C. The reaction was stirred at room temperature for 1 h then was concentrated and diluted with DCM (10 mL). The solution was washed with saturated NaHCO3 solution and brine. After separation, the aqueous phase was extracted with DCM (3×10 mL). Combined organics were dried over Na2SO4, filtered and concentrated to give (S)-4-isopropyl-3-(2-(((S)-1-(4-(1-methyl-1H-pyrazol-4-yl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one as a white solid (35 mg, 97% yield).

reactant | tert-butyl 4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-yl((S)-1-(4-(1-methyl-1H-pyrazol-4-yl)phenyl)ethyl)carbamate | 0.09 mmol, 45 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N(C(OC(C)(C)C)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NN(C1)C | C27H34N6O4
reactant | TFA | 12 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-isopropyl-3-(2-(((S)-1-(4-(1-methyl-1H-pyrazol-4-yl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one | 35 mg, 97% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=C1)C=1C=NN(C1)C | C22H26N6O2
